US05872117
The same procedure as in (1) of Production Example 16 was repeated, except that the 2-(2-naphthyl)oxirane and the 2-hydroxymethyl-4-tritylmorpholine were replaced by 2-(1-naphthyl)oxirane and 1,4-diformyl-2-piperazinyl methanol, respectively, to obtain oily 2-[(1,4-diformylpiperazin-2-yl)methoxyl-1-(1-naphthyl)ethanol (compound No. 270).

reactant | 2-(2-naphthyl)oxirane | C1=C(C=CC2=CC=CC=C12)C1OC1 | C12H10O
reactant | 2-hydroxymethyl-4-tritylmorpholine | OCC1CN(CCO1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H25NO2
reactant | 2-(1-naphthyl)oxirane | C1(=CC=CC2=CC=CC=C12)C1OC1 | C12H10O
reactant | 1,4-diformyl-2-piperazinyl methanol | C(=O)N1C(CN(CC1)C=O)CO | C7H12N2O3
product | (1,4-diformylpiperazin-2-yl)methoxyl-1-(1-naphthyl)ethanol | C(=O)N1C(CN(CC1)C=O)COC(C)(O)C1=CC=CC2=CC=CC=C12 | C19H22N2O4
